US09169259B2
A mixture of 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (0.1 g, 0.304 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole (0.082 g, 0.33 mmol), Pd2(dba)3 (0.035 g, 0.061 mmol), X-phos (0.058 g, 0.122 mmol) and Na2CO3 (0.097 g, 0.912 mmol) in dioxane (20 mL) and water (10 mL) was heated to 100° C. for 16 h in a sealed tube under N2 atmosphere then concentrated in vacuo. The residue was purified by chromatography (silica gel, 10 g, 200˜300 mesh, methanol:dichloromethane=1:30) to afford 6-(1H-indazol-5-yl)-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (48 mg, 38%) as a yellow solid. 1H NMR (300 MHz, DMSO): δ 13.25 (s, 1H), 9.59 (s, 1H), 8.87 (s, 1H), 8.29-8.17 (m, 3H), 7.96 (dd, 1H, J1=8.7 Hz, J2=1.8 Hz), 7.67-7.62 (m, 2H), 7.43 (t, 1H, J=7.8 Hz), 6.73 (d, 1H, J=7.5 Hz), 6.06 (d, 1H, J=8.1 Hz), 4.25-4.21 (m, 1H), 3.63-3.58 (m, 1H), 3.44-3.39 (m, 1H), 2.10-2.05 (m, 3H), 1.70 (s, 1H), 1.12 (d, 3H, J=6.0 Hz). LC-MS: [M+H]+, 411, tR=1.619 min, HPLC: 98.4% at 214 nm, 97.91% at 254 nm, tR=5.848 min.

reactant | 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.304 mmol, 0.1 g | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C16H17ClN6
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole | 0.33 mmol, 0.082 g | CC1(OB(OC1(C)C)C=1C=C2C=NNC2=CC1)C | C13H17BN2O2
reactant | X-phos | 0.122 mmol, 0.058 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | Na2CO3 | 0.912 mmol, 0.097 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | Pd2(dba)3 | 0.061 mmol, 0.035 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-(1H-indazol-5-yl)-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 48 mg, 38% | N1N=CC2=CC(=CC=C12)C=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C23H22N8
